* Z:\mnt\design.r\spice\examples\3370.asc
V1 IN 0 5
L1 N001 OUT {2.2µ/chan}
C1 OUT 0 {14µ*chan}
R1 OUT N002 1.02Meg
R2 N002 0 324K
R3 N003 0 402K
XU1 N003 0 IN N002 N001 IN IN 0 NC_01 LTC3370 LTC3370 CHAN={chan}
Rload OUT 0 {3/chan}
.tran 1.5m startup
.param CHAN=4
* The "CHAN" parameter should be set to the number of power stages used in parallel.\nThe external components have been  scaled appropriately for convenience.  The 14µ\noutput capacitor models a 22µF 0805  capacitance at 3.3V
.lib LTC3370.sub
.backanno
.end
